US07994203B2
Step 3: 1-(4-Bromo-2-methyl-phenyl)-propan-1-one:
Ethylmagnesium bromide (2.35 ml of 3M in diethyl ether, 7.05 mmol) is added slowly to a stirred solution of 4-bromo-N-methoxy-N,2-dimethylbenzamide (0.91 g, 3.53 mmol) in dry THF (40 ml) at 0° C. The reaction is stirred at 0° C. for 1 h followed by RT for 18 h. The reaction mixture is poured into saturated ammonium chloride solution to quench the reaction and concentrated in vacuo to remove most of the THF. The product is extracted with diethyl ether and the combined organic extracts are dried (MgSO4). The solvent is removed in vacuo and the resulting oil is purified by chromatography on silica eluting with iso-hexane:ethyl acetate (3:1) give the title product as a colourless oil. MS m/z 227.0 [M+H]+1H NMR (400 MHz, CDCl3) δ 1.18 (3H, t), 2.45 (3H, s), 2.88 (2H, d), 7.40 (1H, d), 7.43 (1H, s), 7.50 (1H, d).

reactant | Ethylmagnesium bromide | 7.05 mmol, 3M, 2.35 ml | C(C)[Mg]Br
reactant | 4-bromo-N-methoxy-N,2-dimethylbenzamide | 3.53 mmol, 0.91 g | BrC1=CC(=C(C(=O)N(C)OC)C=C1)C | C10H12BrNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 1-(4-Bromo-2-methyl-phenyl)-propan-1-one | BrC1=CC(=C(C=C1)C(CC)=O)C | C10H11BrO
